US05807806
To ethyl acetate in a volume of 50 ml, was dissolved 2-chloro-4-methanesulfonyl-3-dimethoxymethylbenzoic acid in an amount of 3.0 g (9.7 mmol), and to the resulting solution, were added DCC in an amount of 2.2 g (10.7 mmol) and 1-ethyl-5-hydroxypyrazole hydrochloride in an amount of 1.4 g (9.7 mmol) while cooling with ice and the mixture was subsequently stirred for a night at an ambient temperature. Insoluble product precipitated was filtrated, and the filtrate was condensed under reduce pressure. The residue obtained was then dissolved in chloroform in a volume of 30 ml, and the resulting solution was stirred for 6 hours at an ambient temperature following to an addition of acetone cyanohydrin in an amount of 0.25 g (2.9 mmol) and triethylamine in an amount of 2.0 g (20 mmol) thereto. The reacted-mixture was washed with 1-N hydrochloric acid and then with saturated saline solution, dried over anhydrous magnesium sulfate and subjected to distillation for eliminating the solvent therein. The crystals remained were washed with methanol to obtain 1-ethyl-5-hydroxy-4-(2-chloro-4-methanesulfonyl-3-dimethoxymethylbenzoyl)pyrazole in an amount of 1.6 g. The melting point of this compound is in a range of from 168° to 170° C.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 1-ethyl-5-hydroxypyrazole hydrochloride | Cl.C(C)N1N=CC=C1O
reactant | acetone cyanohydrin | CC(C#N)(O)C | C4H7NO
reactant | 2-chloro-4-methanesulfonyl-3-dimethoxymethylbenzoic acid | ClC1=C(C(=O)O)C=CC(=C1C(OC)OC)S(=O)(=O)C | C11H13ClO6S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-ethyl-5-hydroxy-4-(2-chloro-4-methanesulfonyl-3-dimethoxymethylbenzoyl)pyrazole | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C(OC)OC)Cl)=O | C16H19ClN2O6S
